US09290496B2
Step 3: Preparation of 2,6-dichloro-9-cyclobutyl-9H-purine
2,6-Dichloro-N4-cyclobutylpyrimidine-4,5-diamine (crude, 5.65 mmol) in diethoxymethyl acetate (8 mL) was stirred and heated at 80° C. for 16 hr. The mixture was cooled to rt, diluted with EtOAc (80 mL) and washed with water (80 mL), sat. NaHCO3 (80 mL) and brine (80 mL). The organic layer was dried over Na2SO4 and concentrated. The crude product was purified via flash chromatography eluting with 20-50% EtOAc/heptanes to give the title compound as an off-white solid (727 mg, 53% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.95 (1 H, s) 5.07 (1 H, quin, J=8.56 Hz) 2.59-2.77 (2 H, m) 2.42-2.50 (2 H, m) 1.71-1.96 (2 H, m); m/z (APCI+) for C9H8Cl2N4 243.10 (M+H)+.

reactant | 2,6-Dichloro-N4-cyclobutylpyrimidine-4,5-diamine | 5.65 mmol | ClC1=NC(=C(C(=N1)NC1CCC1)N)Cl | C8H10Cl2N4
reactant | diethoxymethyl acetate | 8 mL | C(C)(=O)OC(OCC)OCC | C7H14O4
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | 2,6-dichloro-9-cyclobutyl-9H-purine | 727 mg, 53% yield | ClC1=NC(=C2N=CN(C2=N1)C1CCC1)Cl | C9H8Cl2N4
